US09102591B2
4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexanecarboxamide
4,4-Difluoro-1-(4-methyl-imidazol-1-yl)-cyclohexanecarboxylic acid ethyl ester (199 mg, 0.731 mmol was dissolved in 7 M ammonia in methanol (5 mL) and stirred for 72 hours. The sample was concentrated and the residue was purified by flash column chromatography on silica gel (eluding w a gradient elution from heptane to AcOEt to 5% Et3N/10% MeOH185% AcOEt) to give the title compound (84 mg, 45%) 1H NMR (CDCl3 500 MHz): 6 ppm 7.64 (s, 1H), 6.82 (s, 1H), 5.17 (m, 2H), 2.68 (m, 2H), 2.41 (m, 2H), 2.30 (s, 3H), 2.23 (m, 2H), 1.85 (m, 2H).

reactant | 4,4-Difluoro-1-(4-methyl-imidazol-1-yl)-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CCC(CC1)(F)F)N1C=NC(=C1)C | C13H18F2N2O2
reactant | ammonia | 7 M | N | H3N
solvent | methanol | 5 mL | CO | CH4O
product | 4,4-difluoro-1-(4-methyl-1H-imidazol-1-yl)cyclohexanecarboxamide | 84 mg, 45% | FC1(CCC(CC1)(C(=O)N)N1C=NC(=C1)C)F | C11H15F2N3O
